US08183245B2
To a stirred solution of tert-butyl 4-[(6-chloropyrazin-2-yl)amino]piperidine-1-carboxylate (0.20 g, 0.64 mmol) in tetrahydrofuran (3 mL) at −70° C. was added iodoethane (0.26 mL, 3.2 mmol) and NaHMDS (1M solution in THF; 1.3 mL, 1.3 mmol). The reaction mixture was warmed to room temperature. Iodoethane (0.26 mL, 3.2 mmol) and NaHMDS (1M solution in THF; 1.3 mL, 1.3 mmol) were added. The reaction mixture was stirred at 65° C. After 18 h, the reaction was quenched with saturated aqueous ammonium chloride (25 mL) and extracted with EtOAc (3×25 mL). The organic layers were combined, dried over magnesium sulfate, filtered and concentrated. The crude residue was purified by silica gel chromatography (EtOAc/Hexanes gradient) to afford tert-butyl 4-[(6-chloropyrazin-2-yl)(ethyl)amino]piperidine-1-carboxylate as a yellow solid. LRMS (ESI) calculated for C16H25ClN4O2 [M+Na]+, 363.2; found 363.1.

reactant | tert-butyl 4-[(6-chloropyrazin-2-yl)amino]piperidine-1-carboxylate | 0.64 mmol, 0.20 g | ClC1=CN=CC(=N1)NC1CCN(CC1)C(=O)OC(C)(C)C | C14H21ClN4O2
reactant | iodoethane | 3.2 mmol, 0.26 mL | ICC | C2H5I
reactant | NaHMDS | 1.3 mmol, 1M, 1.3 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | Iodoethane | 3.2 mmol, 0.26 mL | ICC | C2H5I
reactant | NaHMDS | 1.3 mmol, 1M, 1.3 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | tert-butyl 4-[(6-chloropyrazin-2-yl)(ethyl)amino]piperidine-1-carboxylate | ClC1=CN=CC(=N1)N(C1CCN(CC1)C(=O)OC(C)(C)C)CC | C16H25ClN4O2
